US09226883B2
Synthesis of 2-chloro-4-[(2,4-diamino-5-butoxyphenyl)imino]cyclohexa-2,5-dien-1-one 8
26 ml of 6% aqueous hydrogen peroxide solution are added to a solution of 180 mg (0.001 mol) of 4-amino-2-chlorophenol sulfate and 253 mg (0.001 mol) of 4-butoxybenzene-1,3-diamine dihydrochloride in 2 ml of water and 2 ml of ethanol, and the solution is adjusted to pH 9.5 with 20% aqueous ammonia. After stirring for 5 hours at room temperature, the precipitate formed is filtered off, washed with water and dried. A brown powder is obtained.

reactant | hydrogen peroxide | 26 ml | OO | H2O2
reactant | 4-amino-2-chlorophenol sulfate | 0.001 mol, 180 mg | S(=O)(=O)(O)OC1=C(C=C(C=C1)N)Cl | C6H6ClNO4S
reactant | 4-butoxybenzene-1,3-diamine dihydrochloride | 0.001 mol, 253 mg | Cl.Cl.C(CCC)OC1=C(C=C(C=C1)N)N
reactant | ammonia | N | H3N
solvent | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-chloro-4-[(2,4-diamino-5-butoxyphenyl)imino]cyclohexa-2,5-dien-1-one | ClC=1C(C=CC(C1)=NC1=C(C=C(C(=C1)OCCCC)N)N)=O | C16H18ClN3O2
